US08461134B2
N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2,4-dinitrobenzenesulfonamide
Using General Procedure 1: 6-amino-3H-benzo[c][1,2]oxaborol-1-ol (4.9 g, 32.6 mmol), 2,4-dinitro-benzenesulfonyl chloride (9.8 g, 36.8 mmol), pyridine (18 mL), methylene chloride (100 ml), 0° C.-rt, 0/N. Purification: precipitation from hot H2O. The title compound was recrystallized from ethyl acetate as a light-orange solid (9.5 g). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.0 (s, 1H), 9.27 (s, 1H), 8.88 (d, Hz, 1H), 8.58 (dd, J=2.2, 8.6 Hz, 1H), 8.17 (d, J=8.6 Hz, 1H), 7.51 (d, Hz, 1H), 7.34 (d, J=8.3 Hz, 1H), (dd, J=1.9, 8.3 Hz, 1H), 4.91 (s, 2H); MS (ESI) m/z=378 (M−1, negative).

reactant | 6-amino-3H-benzo[c][1,2]oxaborol-1-ol | 32.6 mmol, 4.9 g | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | 2,4-dinitro-benzenesulfonyl chloride | 36.8 mmol, 9.8 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3ClN2O6S
reactant | pyridine | 18 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2,4-dinitrobenzenesulfonamide | OB1OCC2=C1C=C(C=C2)NS(=O)(=O)C2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-] | C13H10BN3O8S
